US08541457B2
Synthesis of 2-(3-Cyanobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 3-cyanobenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 36% yield; m.p. 207-208° C.; 1H NMR (CDCl3, 300 MHz) δ 8.21 (s, 1H), 8.11 (d, J=7.8 Hz, 1H), 7.87 (d, J=7.8 Hz, 1H) 7.67-7.58 (m, 1H), 7.36-7.32 (m, 5H), 5.99 (t, J=5.6 Hz, 1H), 4.59 (d, J=5.6 Hz, 2H), 2.53 (s, 3H); MS (ES+) m/z 377.2 (M+1).

reactant | 3-cyanobenzoyl chloride | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(3-Cyanobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide | 36% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC(=CC=C1)C#N)=O)C | C20H16N4O2S
